Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
erythromycin / Penicillins / Lexapro / Levaquin / ciprofloxacin 
/ doxycycline
 
Attending: ___.
 
Chief Complaint:
abdominal and fevers
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ G1P1 with a h/o drug
induced lupus, depression, and menorrhagia ___ to fibroids and
endometrial polyps who is 2 days s/p a ___
transferred from ___ w/ abdominal pain, n/v, and fevers,
OB/GYN was consulted for evaluation of post-operative
complications. 

On ___, she underwent an operative hysteroscopy w/ submucosal
myoma resection and D&C for menorrhagia, submucosal fibroids, 
and
endometrial polyps. Over 50% of the fibroid was protruding into
the uterine cavity. The procedure was uncomplicated. 

The patient reported overall feeling well after the procedure
until yesterday on ___ when she developed nausea, 2 
episodes
of small volume (1 cup full), non-bilious emesis, dizziness, and
fevers with a T-max of 101.4.  She reported that the episodes of
emesis were small volume approximately 1 cupful.  Her last 
emesis
was noon on ___.  Given these symptoms, the patient called
her primary surgeon and was instructed to present to the
emergency room at ___ for further evaluation.

Exam at ___ notable for fever of 100.5, tachycardia with a
heart rate of 118, BP 121/76, RR 18, satting 100% on room air.
Abdomen was noted to be tender. Pelvic exam deferred. PUS was
performed at ___, which has been unread. 

Labs performed were notable for a white count of 6.9 with no
bandemia and a slight left shift of 74.  She had a normal 
lactate
of 1.1.  Her labs were only notable for a mild hypokalemia of
3.4.  

At ___, she was treated w/ the following: Flagyl ___,
Toradol ___, morphine and ___, and ceftriaxone at 2238.

Given the patients pain and fever, there was concern for
postprocedural endometritis. The patient was transferred to 
___
for further management. 

Upon arrival to the ED, the patient reports feeling the same. 
She denies any further episodes of emesis.  She reports some 
mild
to moderate lower abdominal pelvic pain.  She denies any heavy
vaginal bleeding.  She reports only spotting after the surgery. 
She denies any unusual vaginal discharge.  She denies any 
urinary
or bowel symptoms such as constipation or diarrhea.

ROS: 10 point review of systems is otherwise negative except as
mentioned above

PMH:
- anxiety/depression
- Lupus SLE vs drug-induced
- GERD
- sickle cell trait
- migraine HA
- asthma, exercise induced
- SVT
- Anemia

PSH:
- ___ hsc mmy, D&C
- eye surgery

OBHx: G1P1

GYNHx: h/o fibroids, denies h/o STIs, abnormal pap smears
- LMP ___
- no contraception
- sexually active w/ female partner
- no h/o STIs
- last STI screening per pt report ___, declines further
testing

SH: denies T/D/E

MEDS: 
- Effexor 37.5
- iron 325
- meloxicam 7.5mg 

Allergies (Last Verified ___ by ___:
*Penicillins                                                     

ciprofloxacin                                                    

doxycycline                                                      

erythromycin                                                     

Levaquin                                                         

Lexapro            
 
Physical Exam:
General: NAD, comfortable
CV: RRR, no m/r/g
Lungs: normal work of breathing, CTAB
Abdomen: soft, non-distended, minimal fundal tenderness with 
deep
palpation. no rebound or guarding. 
Extremities: no edema, no TTP, pneumoboots in place bilaterally 
 
Pertinent Results:
___ 11:15AM   GLUCOSE-81 UREA N-6 CREAT-0.6 SODIUM-139 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-21* ANION GAP-15
___ 11:15AM   CALCIUM-8.0* PHOSPHATE-2.0* MAGNESIUM-1.5*
___ 11:15AM   NEUTS-51.3 ___ MONOS-12.9 EOS-6.7 
BASOS-0.8 IM ___ AbsNeut-2.59 AbsLymp-1.41 AbsMono-0.65 
AbsEos-0.34 AbsBaso-0.04
___ 11:15AM   PLT COUNT-184
___ 06:20AM URINE  HOURS-RANDOM
___ 06:20AM URINE  UCG-NEG
___ 06:20AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:20AM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-80* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR*
___ 06:20AM URINE  RBC-3* WBC-9* BACTERIA-FEW* YEAST-NONE 
EPI-2
___ 06:20AM URINE  MUCOUS-FEW*
___ 06:00AM   WBC-6.4 RBC-3.26* HGB-7.3* HCT-24.7* MCV-76* 
MCH-22.4* MCHC-29.6* RDW-15.9* RDWSD-43.7
___ 06:00AM   PLT COUNT-158
___ 03:56AM   GLUCOSE-85 UREA N-7 CREAT-0.7 SODIUM-138 
POTASSIUM-3.6 CHLORIDE-105 TOTAL CO2-20* ANION GAP-13
___ 03:56AM   estGFR-Using this
___ 03:56AM   WBC-6.6 RBC-3.50* HGB-7.6* HCT-25.9* MCV-74* 
MCH-21.7* MCHC-29.3* RDW-16.0* RDWSD-42.6
___ 03:56AM   NEUTS-56.1 ___ MONOS-9.6 EOS-5.5 
BASOS-0.6 IM ___ AbsNeut-3.67 AbsLymp-1.83 AbsMono-0.63 
AbsEos-0.36 AbsBaso-0.04
___ 03:56AM   PLT COUNT-173
___ 03:56AM   ___ PTT-24.9* ___
 
Brief Hospital Course:
*) Postprocedural endometritis
- ___ hsc mmy & D&C, uncomplicated
- Tmax (home) 101.4 w/ abd pain, nausea (resolving), and 2 
episodes of small volume emesis
- bimanual exam notable for fundal tenderness
- continue IV gent/clinda x 72hrs (___) 
- pain: Tylenol, ibuprofen | Zofran prn nausea
- ADAT
- Final CT Abd/Pelvis ___: no e/o bowel injury. No air or 
fluid. Heterogeneity of endo cavity. Fibroid uterus. 
- transition to PO clindamycin ___ AM

*) h/o drug induced lupus: multiple antibiotic drug allergies, 
s/p plaquenil, holding meloxicam in the setting of ibuprofen 
administration  

*) depression: continue Effexor 37.5mg
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not take more than 4000mg in 24 hours.  
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours. 
Disp #*50 Tablet Refills:*0 
2.  Clindamycin 600 mg PO Q8H 
RX *clindamycin HCl 300 mg 2 capsule(s) by mouth every 8 hours. 
Disp #*72 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
Take with food.
 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours. Disp 
#*50 Tablet Refills:*0 
4.  Venlafaxine XR 37.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
post-operative endometritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for management of 
your post-operative endometritis. You have recovered well and 
the team believes you are ready to be discharged home. Please 
call Dr. ___ office with any questions or concerns. Please 
follow the instructions below.

Endometritis: Infection of your uterus. 
* Take your antibiotics as prescribed. Please complete the full 
course of antibiotic.
* You may eat a regular diet.
* You may walk up and down stairs

**** It is important to call your doctor if you develop any 
abdominal pain, fever, chills, abnormal vaginal discharge. ****

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___